US04298602
A solution was prepared by admixing 55 g (0.43 m) of 2-hydrazino-6-fluoropyridine in 240 ml of water with 40 g of concentrated hydrochloric acid in 60 ml of water. The mixture was stirred at 35° C. until a clear solution formed. To this reaction mixture was added 37 g (0.46 m) of potassium cyanate in 100 ml of water. After the addition was completed, the reaction mixture was stirred for 21/2 hours at room temperature and then cooled to 10° C. on an ice bath. The 2-(6-fluoro-2-pyridinyl)hydrazinecarboxamide product was isolated by filtration and washed with methylene chloride in quantitative yield. The product melted at 210°-212° C. and upon analysis, was found to have carbon, hydrogen and nitrogen contents of 42.42, 4.23 and 32.83 percent, respectively, as compared with the theoretical contents of 42.35, 4.14 and 32.93 percent, respectively, as calculated for the above named compound.

reactant | 2-hydrazino-6-fluoropyridine | 55 g | N(N)C1=NC(=CC=C1)F | C5H6FN3
reactant | hydrochloric acid | 40 g | Cl | ClH
reactant | potassium cyanate | 37 g | [O-]C#N.[K+]
solvent | water | 240 ml | O | H2O
solvent | water | 60 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 2-(6-fluoro-2-pyridinyl)hydrazinecarboxamide | quantitative yield | FC1=CC=CC(=N1)NNC(=O)N | C6H7FN4O
